US06642227B2
3-cyclohexyl-3-oxo-propionitrile
A solution of 2-cyano-3-cyclohexyl-3-oxo-propionic acid ethyl ester in DMSO:water (10:1) was stirred at 120° C. for 2 hours. The reaction mixture was partitioned between ether and 1N HCl, the organic phase was dried with MgSO4 and the solvent removed under reduced pressure.

reactant | 2-cyano-3-cyclohexyl-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C1CCCCC1)C#N)=O | C12H17NO3
solvent | DMSO water | CS(=O)C.O
product | 3-cyclohexyl-3-oxo-propionitrile | C1(CCCCC1)C(CC#N)=O | C9H13NO
